US08455648B2
1-(6-(Dihydro-1H-furo[3,4-c]pyrrol-5(3H,6H,6aH)-yl)quinolin-4-yl)-3-(pyrazin-2-yl)urea
The compound was prepared by the method described for Example 1 using hexahydro-furo[3,4-c]pyrrole and 1-(6-bromoquinolin-4-yl)-3-(pyrazin-2-yl)urea as starting compounds.

reactant | hexahydro-furo[3,4-c]pyrrole | C1OCC2C1CNC2 | C6H11NO
reactant | 1-(6-bromoquinolin-4-yl)-3-(pyrazin-2-yl)urea | BrC=1C=C2C(=CC=NC2=CC1)NC(=O)NC1=NC=CN=C1 | C14H10BrN5O
product | 1-(6-(Dihydro-1H-furo[3,4-c]pyrrol-5(3H,6H,6aH)-yl)quinolin-4-yl)-3-(pyrazin-2-yl)urea | C1OCC2C1CN(C2)C=2C=C1C(=CC=NC1=CC2)NC(=O)NC2=NC=CN=C2 | C20H20N6O2
